US08470841B2
5a. cis-N-{3-[5-(4-Hydroxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide
cis-N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide (25 mg, 0.065 mmol) was dissolved in 5 ml of ethanol and hydrogenated in the presence of 0.69 mg of palladium/carbon under 3 bar for 1 h. The reaction mixture was concentrated and directly reacted further. Yield 18 mg.

reactant | cis-N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | 0.065 mmol, 25 mg | C(C1=CC=CC=C1)OC1=CC=C(O[C@@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C22H27NO5
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.69 mg | [Pd] | Pd
product | cis-N-{3-[5-(4-Hydroxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | OC1=CC=C(O[C@@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C15H21NO5
